US07473787B2
Benzo[b]thiophene-2-carboxylic acid [3-(4-ethyl-benzyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(3-fluoro-4-morpholin-yl-phenyl)-amide
To a stirring solution of [3-(4-Ethyl-benzyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(3-fluoro-4-morpholin-4-yl-phenyl)-amine prepared above (50 mg, 0.12 mmol) in 2 mL of DCE at room temperature was added DIEA (0.03 mL, 0.18 mmol) and 2-benzthiophenecarbonylchloride (0.02 mL, 0.18 mmol). After 1 hour, saturated NaHCO3 was added, and the mixture was extracted with CH2Cl2. The combined extracts were dried over anhydrous MgSO4, filtered and concentrated under reduced pressure. The resulting crude material was taken up in 50% EtOAc/hexanes and the white solids were filtered off. The remaining filtrate was concentrated under reduce pressure to yield 58 mg of the desired product. 400 MHz 1H NMR (CDCl3) δ 7.60-7.68 (m, 2H), 7.24-7.31 (m, 2H),7.08-7.18 (m, 5H), 6.99-7.02 (m, 2H), 6.86-6.91 (m, 1H), 3.82-3.88 (m, 4H), 3.68 (d, J=7.47 Hz, 2H), 3.50 (brs, 2H), 3.10-3.12 (m, 4H), 2.88 (brd, J=7.47 Hz, 2H), 2.49 (q, 2H), 2.28, (brs, 2H), 1.49 (brs, 1H), 1.22-1.24 (m, 2H), 1.19 (t, 3H); MS (M+1) 570.2.

reactant | [3-(4-Ethyl-benzyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(3-fluoro-4-morpholin-4-yl-phenyl)-amine | C(C)C1=CC=C(CN2CC3C(C3C2)CNC2=CC(=C(C=C2)N2CCOCC2)F)C=C1 | C25H32FN3O
reactant | DIEA | 0.18 mmol, 0.03 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-benzthiophenecarbonylchloride | 0.18 mmol, 0.02 mL | S1C(=CC2=C1C=CC=C2)C(=O)Cl | C9H5ClOS
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | Benzo[b]thiophene-2-carboxylic acid [3-(4-ethyl-benzyl)-3-aza-bicyclo[3.1.0]hex-6-ylmethyl]-(3-fluoro-4-morpholin-yl-phenyl)-amide | 58 mg | C(C)C1=CC=C(CN2CC3C(C3C2)CN(C(=O)C2=CC3=C(S2)C=CC=C3)C3=CC(=C(C=C3)N3CCOCC3)F)C=C1 | C34H36FN3O2S
